US07897619B2
N-Benzyl-5-(3-methyl-1H-indazol-5-yl)oxazol-2-amine:
The title compound was prepared from 5-(2-iodooxazol-5-yl)-3-methyl-1H-indazole, Scheme 5. A glass microwave reaction vessel was charged with 5-(2-iodooxazol-5-yl)-3-methyl-1H-indazole (0.050 g, 154 μmol), benzyl amine (0.120 mL, 1100 μmol) and NMP (1.0 mL). The reaction mixture was stirred and heated in a Smith Synthesizer® microwave reactor (Personal Chemistry, Inc., Upssala, Sweden) at 165° C. for 10 minutes. The obtained product was adsorbed onto a plug of silica gel and chromatographed through a Redi-Sep® pre-packed silica gel column (12 g), eluting with a gradient of 1% to 10% 2 M NH3.MeOH in DCM, to give the title compound (14 mg, 30% yield) LCMS (API-ES) m/z (%): 305 (100%, M++H); 1H NMR (400 MHz, DMSO-d6) δ ppm 7.69 (s, 1H) 7.48 (dd, J=8.72, 1.40 Hz, 1H) 7.42 (d, J=8.72 Hz, 1H) 7.38 (m, 2H) 7.31 (m, 2H) 7.22 (m, 1H) 7.14 (s 1H) 4.44 (s, 2H).

reactant | 5-(2-iodooxazol-5-yl)-3-methyl-1H-indazole | IC=1OC(=CN1)C=1C=C2C(=NNC2=CC1)C | C11H8IN3O
reactant | 5-(2-iodooxazol-5-yl)-3-methyl-1H-indazole | 154 μmol, 0.050 g | IC=1OC(=CN1)C=1C=C2C(=NNC2=CC1)C | C11H8IN3O
reactant | benzyl amine | 1100 μmol, 0.120 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | NMP | 1.0 mL | CN1CCCC1=O | C5H9NO
reactant | MeOH | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-Benzyl-5-(3-methyl-1H-indazol-5-yl)oxazol-2-amine | 14 mg, 30% yield | C(C1=CC=CC=C1)NC=1OC(=CN1)C=1C=C2C(=NNC2=CC1)C | C18H16N4O
